US06150373
A solution of 1 g (2.2 mmol) of 7-benzylsulfonyl-3-(2-bromophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one in 20 ml of dimethylformamide was cooled to 0° C. under a nitrogen atmosphere, treated with 112 mg (4.2 mmol) of 60% sodium hydride in mineral oil then stirred for 30 minutes. 440 mg (2.4 mmol) of methyl-3-(chloromethyl)benzoate was added, then the reaction was heated at 90° C. for 3 hours. The solvent was evaporated and the residue partitioned between ethyl acetate (40 ml) and water (40 ml), the ethyl acetate layer was separated, washed with saturated aqueous sodium bicarbonate (40 ml), dried over magnesium sulfate, filtered and evaporated. The crude material was purified by flash chromatography on silica gel, eluting with 1:1 ethyl acetate/hexane. Product containing fractions were combined and evaporated to give 750 mg (56%) of methyl 3-[[7-benzylsulfonyl 3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimid-1-yl]methyl]benzoate as a white solid. [Mass spectrum (ESI) MH+ =607].

reactant | 7-benzylsulfonyl-3-(2-bromophenyl)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 2.2 mmol, 1 g | C(C1=CC=CC=C1)S(=O)(=O)C1=NC=C2C(=N1)NC(N(C2)C2=C(C=CC=C2)Br)=O | C19H15BrN4O3S
reactant | sodium hydride | 4.2 mmol, 112 mg | [H-].[Na+]
reactant | methyl-3-(chloromethyl)benzoate | 2.4 mmol, 440 mg | COC(C1=CC(=CC=C1)CCl)=O | C9H9ClO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 3-[[7-benzylsulfonyl 3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimid-1-yl]methyl]benzoate | 750 mg, 56% | C(C1=CC=CC=C1)S(=O)(=O)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)CC=2C=C(C(=O)OC)C=CC2 | C28H23BrN4O5S
